US04232017
2,4-Dimethyl-thiazolo[5,4-c]isoquinoline-5(4H)-one (N-isomer)
A suspension of 6.48 g. (0.030 mole) of 2-methyl-thiazolo[5,4-c]isoquinoline-5(4H)-one in 64 ml of dimethylformamide was added with 1.45 g of a 50% (by weight) suspension of sodium hydride in mineral oil (0.030 mole of sodium hydride). The resulting mixture was kept at 60° C. for 2 hours and, after cooling to room temperature, was added with 2.37 ml (0.038 mole) of methyl iodide and heated for 1 hour at 60° C. After evaporating the solvent, the residue was taken up with water and the obtained solid was collected, washed with water, dried and finally crystallized from methylene chloride/methanol. Yield 4.5 (65%) of the title compound. M.p. 174-176. The compound is the N-isomer.

reactant | 2-methyl-thiazolo[5,4-c]isoquinoline-5(4H)-one | 0.030 mole | CC=1SC=2NC(C=3C=CC=CC3C2N1)=O | C11H8N2OS
reactant | sodium hydride | [H-].[Na+]
reactant | sodium hydride | 0.030 mole | [H-].[Na+]
reactant | methyl iodide | 0.038 mole, 2.37 ml | CI | CH3I
solvent | dimethylformamide | 64 ml | CN(C=O)C | C3H7NO
product | 2,4-Dimethyl-thiazolo[5,4-c]isoquinoline-5(4H)-one | CC=1SC=2N(C(C=3C=CC=CC3C2N1)=O)C | C12H10N2OS
